US07855292B2
C. (±)-4-Chloro-N-[2-(3,4-dichloro-Phenyl)-propyl]-2-(2,4-difluorobenzenesulfonylamino)-benzamide
4-Chloro-2-(2,4-difluoro-benzenesulfonylamino)-benzoic acid was coupled with (±)-2-(3,4-dichloro-phenyl)-propylamine hydrochloride as in EXAMPLE 1, Part C. HPLC: RT=12.04 min. MS (ESI−): mass calcd. for C22H17Cl3FN2O3S2, 532.00; m/z found, 531/533 [M−H]−. 1H NMR (400 MHz, CDCl3): 11.41 (s, 1H), 8.00 (ddd, J=8.6, 8.6, 6.0, 1H), 7.61 (d, J=2.0, 1H), 7.42 (d, J=8.2, 1H), 7.32 (d, J=2.1, 1H), 7.11 (d, J=8.4, 1H), 7.08 (dd, J=8.2, 2.1, 1H), 7.03-6.97 (m, 1H), 6.97 (dd, J=8.4, 2.0, 1H), 6.92-6.86 (m, 1H), 6.02-5.95 (br m, 1H), 3.76-3.68 (m, 1H), 3.41-3.31 (m, 1H), 3.11-3.01 (m, 1H), 1.32 (d, J=7.0, 3H).

reactant | 4-Chloro-2-(2,4-difluoro-benzenesulfonylamino)-benzoic acid | ClC1=CC(=C(C(=O)O)C=C1)NS(=O)(=O)C1=C(C=C(C=C1)F)F | C13H8ClF2NO4S
reactant | (±)-2-(3,4-dichloro-phenyl)-propylamine hydrochloride | Cl.ClC=1C=C(C=CC1Cl)C(CN)C
product | (±)-4-Chloro-N-[2-(3,4-dichloro-Phenyl)-propyl]-2-(2,4-difluorobenzenesulfonylamino)-benzamide | ClC1=CC(=C(C(=O)NCC(C)C2=CC(=C(C=C2)Cl)Cl)C=C1)NS(=O)(=O)C1=C(C=C(C=C1)F)F | C22H17Cl3F2N2O3S
